US04107326
2,6-Difluorobenzylamine hydrochloride
A mixture of 5.00 g. of 2,6-difluorobenzonitrile and 1.0 g. of 50% water-wet 5% palladium on carbon catalyst in 100 ml. of concentrated HCl and 100 ml. of absolute ethanol is shaken at room temperature under 20 lbs. pressure of hydrogen for 48 hours. The mixture is filtered and the filtrate is diluted with 500 ml. of diethyl ether and allowed to stand. Filtration gives the desired product as colorless crystals, m.p. 197°-200° C.

reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | HCl | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,6-Difluorobenzylamine hydrochloride | Cl.FC1=C(CN)C(=CC=C1)F | InChI=1S/C7H7F2N.ClH/c8-6-2-1-3-7(9)5(6)4-10;/h1-3H,4,10H2;1H
